US06080754
3-Dimethylaminomethyl-1-ethyl-2-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine
4-Ethyl-3-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethylamide (0.14 g, 0.37 mmol) was dissolved in 25 ml of dry tetrahydofurane under a nitrogen atmosphere. Lithium aluminium hydride (20 mg, 0.53 mmol) was added in portions and stirring was continued for 1/2 hours. The reaction mixture was quenched with 0.02 ml of water, 0.04 ml of a 2 M sodium hydroxide solution and then 0.04 ml of water again. The resulting precipitate was filtered off and washed with ethyl acetate. The solvent was removed and the crude product was purified by column chromatography over silica gel 60, using 10% of methanol in dichloromethane as the eluent. Fractions containing the product were collected and the solvent was evaporated to afford 63 mg (53%) of the title compound as a yellow solid. M.p. 176-178° C. MS(SP): m/z 318 (M+). 1H-NMR (DMSO-d6, 300 MHz) δ: 1.35 (t, 3H); 2.27 (s, 6H); 3.10 (q, 2H); 3.94 (s, 2H); 6.98 (d, 2H); 7.25 (s, 1H); 7.57 (d, 2H); 7.72 (dd, 1H); 8.02 (d, 1H); 8.09 (d, 1H); 9.70 (s, 1H).

reactant | 4-Ethyl-3-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethylamide | 0.37 mmol, 0.14 g | CN(C(=O)C1=CC2=CC=CC=3N2C1=C(C3CC)C3=CC=C(C=C3)O)C | C21H20N2O2
reactant | Lithium aluminium hydride | 0.53 mmol, 20 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydofurane | 25 ml | O1CCCC1 | C4H8O
product | 3-Dimethylaminomethyl-1-ethyl-2-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine | 63 mg, 53% | CN(C)CC=1C=C2N3C1C(=C(C3=CC=C2)CC)C2=CC=C(C=C2)O | C21H22N2O
